US06903086B2
To a solution of 5-isopropoxy-2-nitro-benzoic acid (946 mg, 4.2 mmol) in THF (15 mL) was added 5% Pd/C (95 mg) under a nitrogen atmosphere. A balloon filled with H2 was set up. The mixture was stirred for 3.5 h and filtered. The filtrate was dried to yield 816 mg of 5-isopropoxy-2-amino-benzoic acid.

reactant | 5-isopropoxy-2-nitro-benzoic acid | 4.2 mmol, 946 mg | C(C)(C)OC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C10H11NO5
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 95 mg | [Pd] | Pd
product | 5-isopropoxy-2-amino-benzoic acid | 816 mg | C(C)(C)OC=1C=CC(=C(C(=O)O)C1)N | C10H13NO3
